US08008327B2
Synthesis of 3-Bromo-1H-indazole-4-carboxylic acid methyl ester (15)
To a solution of 1H-indazole-4-carboxylic acid methyl ester (380 mg, 2.2 mmol) in DMF (5 mL) was added N-bromosuccinimide (NBS) (976 mg, 4.32 mmol) and KOH (485 mg, 8.64 mmol). After 1 hour, the reaction mixture was diluted with saturated aqueous ammonium chloride (20 mL) and extracted with ethyl acetate (3×20 mL). The combined organic layers were washed with saturated aqueous sodium bicarbonate and brine (20 mL), dried over sodium sulfate and concentrated in vacuo to afford the title compound as a solid.

reactant | 1H-indazole-4-carboxylic acid methyl ester | 2.2 mmol, 380 mg | COC(=O)C=1C=2C=NNC2C=CC1 | C9H8N2O2
reactant | N-bromosuccinimide | 4.32 mmol, 976 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | KOH | 8.64 mmol, 485 mg | [OH-].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ammonium chloride | 20 mL | [Cl-].[NH4+]
product | 3-Bromo-1H-indazole-4-carboxylic acid methyl ester | COC(=O)C=1C=2C(=NNC2C=CC1)Br | C9H7BrN2O2
